2111-08-06 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - not safe to try to put in a A-line, was moving too much
   - ABG at 4pm was  7.23/35/173/15 Lactate 1.9, indicating metabolic
   acidosis that she is not able to adequately compensate
   - free H20 deficit was 3.3L, so, started 2L of D5W at 90cc/hr, repeat
   Na is 153 (down from 157)
   - [**Location (un) 3**] called and said she had staph+ blood cx -> will need TTE at
   some point to r/o endocarditis
   - CK-MB, Troponin at 8pm: MB: 17  Trop-T: 0.44
   - got 1U of pRBCs
   - talked to daughter about current status/plan
   - not on [**Last Name (LF) 119**], [**First Name3 (LF) 124**] consider after looking at plts
   - UA dirty, UA lytes - has prerenal and ATN mixed picture
   - ?ABG in AM
   - started on Azithro for atypical CAP coverage
   - off Levo since 2 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-8-5**] 06:17 AM
   Cefipime - [**2111-8-5**] 10:30 AM
   Azithromycin - [**2111-8-5**] 12:00 PM
   Metronidazole - [**2111-8-5**] 07:43 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-5**] 07:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-6**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 85 (73 - 94) bpm
   BP: 122/74(75) {72/11(36) - 138/112(117)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 46.9 kg
    Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  6,849 mL
                                                                    716 mL
   PO:
   TF:
   IVF:
                                                                  6,662 mL
                                                                    554 mL
   Blood products:
                                                                    187 mL
                                                                    163 mL
   Total out:
                                                                    321 mL
                                                                    280 mL
   Urine:
                                                                    321 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,528 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.30/30/119/17/-9
   Physical Examination
   General: Moaning in bed, moving all extremities and rolling from side
   to side.
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear anteriorly bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, systolic murmur radiates to carotid, soft
   diastolic murmur, S1 + S2, no rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place, brown stool noted.
   Ext: feet warm, radial pulses doperable bilaterally but very difficult
   to palpate, non-palpable DP pulses but doperable, no cyanosis or edema
   Neuro: Unable to complete pupil examination, opens eyes on command.
   Moving all extremities equally. Calling out at times.
   Skin: No lesions noted.
   Labs / Radiology
   108 K/uL
   9.4 g/dL
   99 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   49 mg/dL
   127 mEq/L
   154 mEq/L
   30.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2111-8-5**]  05:34 AM
                             [**2111-8-5**]  05:38 AM
                             [**2111-8-5**]  05:40 AM
                             [**2111-8-5**]  12:39 PM
                             [**2111-8-5**]  03:55 PM
                             [**2111-8-5**]  06:35 PM
                             [**2111-8-5**]  07:29 PM
                             [**2111-8-5**]  11:37 PM
                             [**2111-8-6**]  03:41 AM
                             [**2111-8-6**]  06:44 AM
   WBC
   13.5
   9.1
   8.7
   8.7
   Hct
   29
   30.2
   26.4
   28.2
   30.4
   Plt
   148
   123
   122
   108
   Cr
   2.6
   2.3
   2.1
   2.0
   TropT
   0.59
   0.47
   0.44
   0.37
   TCO2
   17
   14
   15
   15
   Glucose
   151
   190
   137
   147
   99
   Other labs:
   PT / PTT / INR:14.9/37.8/1.3,
   CK / CKMB / Troponin-T:834/16/0.37,
   ALT / AST:40/63, Alk Phos / T Bili:84/0.2,
   Differential-Neuts:84.5 %, Lymph:10.5 %, Mono:4.7 %, Eos:0.2 %,
   Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:512 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   MICRO:
URINE CULTURE (Preliminary):
   Legionella Urinary Antigen  (Final [**2111-8-5**]):
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
           (Reference Range-Negative).
      Performed by Immunochromogenic assay.
      A negative result does not rule out infection due to other L.
      pneumophila serogroups or other Legionella species. Furthermore, in
      infected patients the excretion.
   BLOOD CULTURE: NGTD
   IMAGING: CXR today: my read: no acute cardiopulmonary process. RML
   opacity seen yesterday has resolved.
   Assessment and Plan
   Ms. [**Known lastname 8665**] is an 87 year old female with history of chronic renal
   insufficieny, diastolic congestive heart failure, anemia, and
   hypertension who presents with hypotension, leukocytosis,
   hypernatremia, and worsening renal function.
   .
   #) Sepsis:
   Patient fits criteria for diagnosis of sepsis. Most likely source is
   urinary, though GI or pulmonary source are also possible. Patient given
   liters of fluid, antibiotics, and started on pressors in ED, and line
   placed at that time. Other possibilities to consider would be
   cardiogenic shock, PE (less likely given no tachycardia, no huge A-a
   gradient)
   - IVF boluses to maintain urine output at goal, watching lung
   examination closely (currently overall clear), as suspect profoundly
   volume depleted and may need several more liters
   - Continue levophed for MAP >65, add vasopressin if needed
   - Continue antibiotics, would expand to include better gram negative
   coverage given question of UTI with Zosyn (versus ciprofloxacin), and
   add azthromycin for atypical coverage.
   - Follow lactate, would ideally check CVP, UOP
   - Check venous saturation once have neck/subclavian line
   - Follow up culture data (at [**Location (un) 3**])
   - Will need to replace CVL to non-femoral site when possible
   - Follow up CXR and CT reads
   - Given profuse diarrhea, checking c. diff (though seems less likely in
   setting of constipation), empiric flagyl for now
   - Repeat CXR after hydration
   - Checking legionella antigen
   - ECHO to r/o endocarditis in presence of coag-neg staph
   .
   #) Hypernatremia: Given history, suspect most likely etiology is
   hypovolemic. Her free water deficit is approximately 4 liters.
   - Goal correction is 0.5 mEq/hour ([**9-14**] mEq/day) given unknown
   chronicity of hypernatremia
   - Follow up sodium q2-3 hours
   - Check serum and urine Osm, urine electrolytes
   - Will use NaCl to concurrently expand intravascular volume, once
   volume repleted, would switch over to 1/2 NS or D5W
   .
   #) Acute on chronic renal insufficieny: Per notes, baseline creatinine
   around 1.5, currently 3.0 with elevated BUN. Suspect this is
   multifactorial from pre-renal low intravascular state coupled with
   continuation of lasix and lisinopril. Given hypotension, suspect there
   is also component of ATN for unknown duration.
   - Holding antihypertensives in setting of hypotension, elevated
   creatinine
   - Re-send urine to examine for casts, etc (sent at [**Location (un) 3**])
   - Continue hydration
   - Follow trend
   .
   #) Metabolic acidosis: Anion gap of 17, though albumin pending, so may
   actually be higher. Multifactorial etiology including acute renal
   failure with uremia, new diarrhea, and lactic acidosis. She appears to
   be fully respiratorily compensated at present without any additional
   non-gap or respiratory process. Should she appear to tire or otherwise
   be unable to compensate, will need to consider intubation.
   -          Follow up ABGs, work on reversing underlying processes
   -          Checking albumin
   .
   #) Anemia: Appears hemo-concentrated at this time from recent baseline
   of 26-29 during admission in 6/[**2110**]. She has had iron studies from
   [**12/2110**] with iron 47, TIBC 193, ferritin 206, B12 181, folate >20
   - Guaiac stools
   - Follow trend, active type and cross
   - Obtain further information from PCP in regards to baseline, work-up
   .
   #) Elevated troponin: EKG demonstrated no findings concerning for acute
   ischemia. CK is flat. Tropinin markedly elevated, but in setting of
   prior elevated troponin (0.674 [**5-/2111**]) and renal insufficiency.
   - Follow up EKG this AM
   - Continue [**Year (4 digits) 119**] 325 mg
   .
   #) AAA: Noted to have enlarged to 7 cm (last imaging in our system was
   [**2105**] at which time it was 4.6 x 4.0 cm), no clear RP bleed or
   extravagestion on CT scan; appears to be infrarenal without evidence of
   any dissection (however non-contrast). This could be contributing,
   however, to her poor PO intake and even renal insufficiency.
   - Will need vascular consultation post-ICU followup
   - Follow pulses
   - Follow up final CT read
   .
   #) Mental status/Failure to thrive:
   Per daughter, has had marked decline over the last several months,
   worsening over the last several days. Poor PO intake.
   Suspect this is multifactorial picture in setting of underlying
   dementia, hypernatremia, uremia, and probable infection.
   - Continue to work above concerns
   - Social work consult
   - Need to discuss with PCP [**Name Initial (PRE) 508**] work-up, get sense of goals of
   care, etc
   - Hold off on LP or head CT at present given large number of likely
   contributing factors as noted above
   .
   #) FEN:
   - IVF as noted above, bolusing as need to maintain MAP, following
   electrolytes.
   - Monitoring and repleting electrolytes as discussed above.
   - NPO for now
   .
   #) Prophylaxis: Subutaneous heparin
   .
   #) Access: Currently has femoral triple lumen and one 20 gage
   peripheral
   - Femoral line will need to be resited to non-femoral site
   .
   #) Code:  Full--called daughter and updated her and discussed recent
   events. Per daughter, patient is full code. The family wished to hold
   off on intubation for purposes of the CT scan downstairs, but would
   want intubation if has respiratory decline. Daughter will come in very
   soon to talk about this further.
   .
   #) Communication:
   Family: Daughter [**First Name8 (NamePattern2) 2229**] [**Known lastname 8665**] [**Last Name (un) 8666**] [**Telephone/Fax (1) 8667**]
   .
   #) Disposition: ICU level care
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Insulin sliding scale as needed
   Lines:
   Multi Lumen - [**2111-8-5**] 05:20 AM
   20 Gauge - [**2111-8-5**] 05:24 AM
   * Need to re-site femoral when possible.
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer: Not indicated
   VAP:   N/A
   Comments:
   Communication:  Comments: Daughter as noted above
   Code status: Full code
   Disposition: ICU

2111-08-06 13:19:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   deferred a-line as pt agitated, unable to be placed safely
   d5w with improvement in free water def
   staph aureas now growing from [**Location (un) 3**] bl cx
   transfused 1 unit prbc overnight
   , +8 L IVF, pressors weaned to off overnight  --> recurrent
   hypotension/hypothermia this am with drop in u/o
 levophed restarted
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-8-5**] 06:17 AM
   Cefipime - [**2111-8-5**] 10:30 AM
   Azithromycin - [**2111-8-5**] 12:00 PM
   Metronidazole - [**2111-8-6**] 08:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-5**] 07:43 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-6**] 01:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 34.4
C (94
   HR: 94 (69 - 95) bpm
   BP: 92/54(62) {72/11(23) - 138/100(100)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 46.9 kg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  6,848 mL
                                                                  2,480 mL
   PO:
   TF:
   IVF:
                                                                  6,661 mL
                                                                  2,317 mL
   Blood products:
                                                                    187 mL
                                                                    163 mL
   Total out:
                                                                    321 mL
                                                                    455 mL
   Urine:
                                                                    321 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,527 mL
                                                                  2,025 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.30/30/119/17/-9
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: flat jvp
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present but decreased, mildly
   distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t), awake but unable to cooperate with
   eval/exam/questions.
   Labs / Radiology
   9.4 g/dL
   108 K/uL
   99 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.7 mEq/L
   49 mg/dL
   127 mEq/L
   154 mEq/L
   30.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2111-8-5**]  05:34 AM
                             [**2111-8-5**]  05:38 AM
                             [**2111-8-5**]  05:40 AM
                             [**2111-8-5**]  12:39 PM
                             [**2111-8-5**]  03:55 PM
                             [**2111-8-5**]  06:35 PM
                             [**2111-8-5**]  07:29 PM
                             [**2111-8-5**]  11:37 PM
                             [**2111-8-6**]  03:41 AM
                             [**2111-8-6**]  06:44 AM
   WBC
   13.5
   9.1
   8.7
   8.7
   Hct
   29
   30.2
   26.4
   28.2
   30.4
   Plt
   148
   123
   122
   108
   Cr
   2.6
   2.3
   2.1
   2.0
   TropT
   0.59
   0.47
   0.44
   0.37
   TCO2
   17
   14
   15
   15
   Glucose
   151
   190
   137
   147
   99
   Other labs: PT / PTT / INR:14.9/37.8/1.3, CK / CKMB /
   Troponin-T:834/16/0.37, ALT / AST:40/63, Alk Phos / T Bili:84/0.2,
   Differential-Neuts:84.5 %, Lymph:10.5 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:512 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: CK's up, trops down, mb flat, MBi down
   lactate 4.9-->1.5
   alb 2.9
   Microbiology: urine cx ngtd, lg neg
   bl ngtd here (osh bl + staph 3/4 bottles, CNS)
   Assessment and Plan
   87 yo F w/ MMM presents with:
          Septic shock
          Hypotension
          Leukocytosis
          AGMA (lactate and uremia)-->now NGMA
          Hypernatremia
          ARF on CRI
          NSTEMI/demand ischemia
          Altered mental status on underlying dementia
   Hypotension in setting of septic shock. Pt also with profound
   dehydration at presentation in setting of ongoing lasix and poor po
   intake/FTT further contributing.  Initially improving and weaned off
   pressors but now hypothermic and hypotensive with levophed restarted.
   OSH Bl cxs growing CPS (2 different sensies).   Still with sm to mod
   diarrhea.
   Agree with plan to treat for septic shock with aggressive IVFs,
   maintaining MAPS > 60 attempting to again wean off levophed.  Pt is
   unable to cooperate with CVL limiting our ability to follow cvp or svo2
   to further guide resus. Overnight her lactate normalized and cr has
   been decreasing.  Will continue to monitor abgs, ph, and lactate
   levels.  She now has a NGMA--from diarrhea and NS. Will use LR for
   IVFs. Will con't vanco, cefe and flagyl for now pending additional cx
   data. Her diarrhea is minimal but we will cover empirically for c diff
   and follow abd exam. She has been oxygenating well, with neg urine lg,
   lower suspicion for pna/atypical pna
can d/c azithro.  Will check TTE
   to assess for SBE and send surveillance cx given CNS bactermeia. Her na
   is improving and we continue to replete free water deficit.  ARF is
   likely multifactorial in etiology
prerenal from profound dehydration,
   onoging meds (lasix and lisinopri), low flow state in setting of known
   AS, as well as sepsis with probable ATN.  Cr and urine outpt
   responding to IVFs. Demand ichemia in setting of sepsis on admit, trop
   are now trending down. Continue asa. New CPK elevation, may suggest
   rhabdo. Continue hydration and trend.  AAA appears larger than prior,
   though without evidence of dissection or bleed by ct.  Follow pulses
   and serial hcts.  Clarify baseline MS, though at this time appears to
   be multiple potential causes for decline including sepsis, hypotension
   and hypernatremia on top of underlying dementia.
   Given her metabolic process, pt is at  high risk for fatiguing and
   being increasingly unable to compensate adequately for metabolic
   acidosis.  Given her agitation she is not a good candidate for NPPV.
   Pt is DNR, [**Name (NI) **].  Will continue current level of aggressive care and
   keep family updated and continue to address goals of care..   Social
   work consult.
   Remainder as per Housestaff.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2111-8-5**] 05:20 AM
   20 Gauge - [**2111-8-5**] 05:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:
   Met with pt
s family and updated them to her status.  Family
   understands that pt is critically ill and in MODS.  They understand
   that her labs have shown worsening clinical decline.  All questions
   were answered.  We confirmed DNR /DNI status.  Family wishes at this
   time to continue current level of aggressive care.  We have asked for a
   palliative care consult and  for clergy to speak with family .
   Additional crit care time spent: 20 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2111-8-6**] 19:24 ------

2111-08-07 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -became very acidotic to 7.15, which increased to 7.22 due to
   respiratory acidosis and fatigue
   -family came in, are aware of poor prognosis, remains DNR/DNI
   -echo ordered, not done.
   -Na improving
   -C. diff negative on [**8-6**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-8-5**] 06:17 AM
   Cefipime - [**2111-8-6**] 11:00 AM
   Azithromycin - [**2111-8-6**] 01:35 PM
   Metronidazole - [**2111-8-6**] 08:41 PM
   Vancomycin - [**2111-8-6**] 08:42 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 95 (83 - 99) bpm
   BP: 95/55(64) {80/52(59) - 147/81(109)} mmHg
   RR: 30 (19 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 46.9 kg
             Total In:
                                                                  4,370 mL
                                                                    749 mL
   PO:
             TF:
   IVF:
                                                                  4,207 mL
                                                                    749 mL
   Blood products:
                                                                    163 mL
   Total out:
                                                                    819 mL
                                                                    610 mL
   Urine:
                                                                    819 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,551 mL
                                                                    141 mL
   Respiratory support
   SpO2: 95%
   ABG: 7.37/29/78/17/-6
   Physical Examination
   General: Moaning in bed, moving all extremities and rolling from side
   to side.
   Lungs: Clear anteriorly bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, systolic murmur radiates to carotid, soft
   diastolic murmur, S1 + S2, no rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley in place, small amount of urine in the collection bag
   Ext: feet warm, radial pulses doperable bilaterally but very difficult
   to palpate, non-palpable DP pulses but doperable, no cyanosis or edema
   Neuro: Unable to complete pupil examination, opens eyes on command.
   Moving all extremities equally. Calling out at times.
   Skin: No lesions noted.
   Labs / Radiology
   132 K/uL
   10.1 g/dL
   99 mg/dL
   2.0 mg/dL
   17 mEq/L
   3.8 mEq/L
   49 mg/dL
   127 mEq/L
   147 mEq/L
   32.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2111-8-5**]  03:55 PM
                             [**2111-8-5**]  06:35 PM
                             [**2111-8-5**]  07:29 PM
                             [**2111-8-5**]  11:37 PM
                             [**2111-8-6**]  03:41 AM
                             [**2111-8-6**]  06:44 AM
                             [**2111-8-6**]  03:44 PM
                             [**2111-8-6**]  04:15 PM
                             [**2111-8-6**]  05:31 PM
                             [**2111-8-6**]  07:01 PM
   WBC
   8.7
   8.7
   9.5
   Hct
   28.2
   30.4
   26.6
   32.7
   Plt
   122
   108
   132
   Cr
   2.1
   2.0
   TropT
   0.44
   0.37
   TCO2
   15
   15
   17
   17
   Glucose
   147
   99
   Other labs: PT / PTT / INR:14.9/37.8/1.3,
   ALT / AST:40/63, Alk Phos / T Bili:84/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:512 IU/L,
   Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Micro:
   Urine culture from [**8-5**]: pending
   Blood culture from [**Date range (1) 8691**]: NGTD
   C. diff neg x1
   Imaging:
   CXR from today: my read: bibasilar opacity consistent with pleural
   effusion, wedge-shaped consolidation in the right middle lobe?
   ECHO this morning
   Assessment and Plan
   Ms. [**Known lastname 8665**] is an 87 year old female who presented with septic shock,
   hypernatremia, and acute on chronic renal failure.
   .
   #) Septic shock:  Patient fits criteria for diagnosis of sepsis.
   [**Location (un) 3**] blood culture from [**8-4**] grew coag negative staph, 2 species ([**1-7**]
   pansensitive,
 resistant to quinolones and cefazolin). It is unclear
   where the source is for this bacteremia. The cultures here still
   pending. Urinary source is possible, but usually UTI is not due to
   staph.  Pulmonary source are also possible, but pt is sat-ing well on
   NC oxygen supplementation, and CXR unremarkable.  Urine legionella
   negative.
   - Continue levophed for MAP >65, add vasopressin if needed
   - IVF boluses to maintain urine output at goal, watching lung
   examination closely (currently overall clear). Would use 1/2NS instead
   of NS for volume expansion given hypernatremia
   - continue vanc (Day 3), cefepime (Day 3), and flagyl
   - vanc levels after 3^rd dose of vanc
   - discontinued azithromycin yesterday as pt does not seem to have lung
   infections
   - Given profuse diarrhea, checking c. diff (though seems less likely in
   setting of constipation), empiric flagyl for now
   - wait for 3x C. Diff; if negative, d/c flagyl
   - Follow lactate
   - Will need to replace CVL to non-femoral site when possible, would
   ideally check CVP but difficult with femoral CVL
   - Check venous saturation once have neck/subclavian line
   - Follow up culture data from here
   - Repeat CXR daily
   - f/u with ECHO results to r/o endocarditis
   .
   #) Hypernatremia: Resolved.  The most likely etiology is hypovolemic.
   - Goal correction is 0.5 mEq/hour ([**9-14**] mEq/day) given likely
   chronicity of hypernatremia
   - D5W at 100cc / hr for 28 hours (to get Na down to 140)
   - Follow up pm sodium
   - Check serum and urine Osm, urine electrolytes
   - Will use NaCl to concurrently expand intravascular volume, once
   volume repleted, would switch over to 1/2 NS or D5W
   .
   #) Acute on chronic renal insufficieny: Improving with IVF, Cr went
   down from 3.0 to 2.0. Per notes, baseline creatinine around 1.5.
   Etiologies include pre-renal and ATN in the setting of severe volume
   depletion.
   - Holding antihypertensives in setting of hypotension, elevated
   creatinine
   - Continue hydration
   - Follow trend
   .
   #) Metabolic acidosis: Anion gap of 10 today, down from 13 yesterday.
   Albumin 2.9. Multifactorial etiology including acute renal failure with
   uremia, new diarrhea, and lactic acidosis. Uremia and lactic acidosis
   improving. She appears to not be able to fully compensate at a
   respiratory standpoint at present with additional non-gap process.
   Should she appear to tire or otherwise be unable to compensate, will
   need to consider intubation. However, pt is DNR and DNI.
   - Follow up ABGs, work on reversing underlying processes
   .
   #) Anemia: Hct stable currently at 30.4 today.   Recent baseline of
   26-29 during admission in 6/[**2110**]. She has had iron studies from [**12/2110**]
   with iron 47, TIBC 193, ferritin 206, B12 181, folate >20
   - Guaiac stools
   - Follow trend, active type and cross
   - Obtain further information from PCP in regards to baseline, work-up
   .
   #) Elevated troponin: troponin trending down, most likely secondary to
   demand ischemia in the setting of severe volume depletion and anemia.
   - No need to trend cardiac enzymes now since troponin has peaked
   - Continue ASA 325 mg
   .
   #) AAA: Noted to have enlarged to 7 cm (last imaging in our system was
   [**2105**] at which time it was 4.6 x 4.0 cm), no clear RP bleed or
   extravagestion on CT scan; appears to be infrarenal without evidence of
   any dissection (however non-contrast). This could be contributing,
   however, to her poor PO intake and even renal insufficiency.
   - Will need vascular consultation post-ICU followup
   - Follow pulses
   .
   #) Elevated CK: Unclear etiology. Non-cardiac. Might be due to lying in
   bed without moving around chronically. TSH normal, so unlikely due to
   hypothyroidism.
   - continue to trend
   .
   #) Mental status/Failure to thrive: Per daughter, has had marked
   decline over the last several months, worsening over the last several
   days. Poor PO intake. Suspect this is multi-factorial picture in
   setting of underlying dementia, hypernatremia, uremia, and probable
   infection.
   - Continue to work above concerns
   - Social work consult
   - Need to discuss with PCP [**Name Initial (PRE) 508**] work-up, get sense of goals of
   care, etc
   - Hold off on LP or head CT at present given large number of likely
   contributing factors as noted above
   .
   #) Goals of care:
   - update family and discuss with daughter
   ICU [**Name2 (NI) 151**]
   Nutrition: NPO for now. Start to consider long-term feeding options.
   Glycemic Control:  Insulin sliding scale as needed
   Lines:
   Femoral Multi Lumen - [**2111-8-5**] 05:20 AM
   20 Gauge - [**2111-8-5**] 05:24 AM
   * Need to re-site femoral when possible.
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer: Not indicated
   VAP:   N/A
   Comments:
   Communication:  Comments: Family: Daughter [**First Name8 (NamePattern2) 2229**] [**Known lastname 8665**] [**Last Name (un) 8666**]
   [**Telephone/Fax (1) 8667**]
   Code status: DNR/DNI
   Disposition: ICU

2111-08-07 11:32:00 Physician Attending Progress Note
Chief Complaint: septic shock, hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   fatiguing-->became increasingly acidemic, with metabolic and resp
   acidosis-->improved this am with better resp
         compensation
   weaned off pressors this am
   family mtg yesterday
   na slowly coming down (lab check with na 135 was spurious)
   still with small amts diarreha
   tte this am
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-8-5**] 06:17 AM
   Cefipime - [**2111-8-6**] 11:00 AM
   Azithromycin - [**2111-8-6**] 01:35 PM
   Metronidazole - [**2111-8-6**] 08:41 PM
   Vancomycin - [**2111-8-6**] 08:42 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-7**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 98 (85 - 99) bpm
   BP: 118/65(77) {80/52(59) - 147/81(109)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.8 kg (admission): 46.9 kg
   Height: 64 Inch
             Total In:
                                                                  4,370 mL
                                                                  1,146 mL
   PO:
             TF:
   IVF:
                                                                  4,207 mL
                                                                  1,146 mL
   Blood products:
                                                                    163 mL
   Total out:
                                                                    819 mL
                                                                    760 mL
   Urine:
                                                                    819 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,551 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.37/29/77.[**Numeric Identifier 253**]/14/-6
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   129 K/uL
   152 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.2 mEq/L
   31 mg/dL
   119 mEq/L
   143 mEq/L
   32.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2111-8-5**]  07:29 PM
                             [**2111-8-5**]  11:37 PM
                             [**2111-8-6**]  03:41 AM
                             [**2111-8-6**]  06:44 AM
                             [**2111-8-6**]  03:44 PM
                             [**2111-8-6**]  04:15 PM
                             [**2111-8-6**]  05:31 PM
                             [**2111-8-6**]  07:01 PM
                             [**2111-8-7**]  05:03 AM
                             [**2111-8-7**]  08:02 AM
   WBC
   8.7
   9.5
   6.8
   Hct
   30.4
   26.6
   32.7
   32.7
   Plt
   108
   132
   129
   Cr
   2.1
   2.0
   1.6
   TropT
   0.44
   0.37
   TCO2
   15
   17
   17
   17
   Glucose
   147
   99
   152
   Other labs: PT / PTT / INR:14.9/37.8/1.3, CK / CKMB / Troponin-T:
   (down) 598/16/0.37, ALT / AST:40/63, Alk Phos / T Bili:84/0.2,
   Differential-Neuts:84.5 %, Lymph:10.5 %, Mono:4.7 %, Eos:0.2 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:491 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Imaging: cxr--very rotated, ? atelectasis vs vascularture at RU zone,
   full hilar vessels with small lung vol, large gastric bubble
   Microbiology: urine cx pending [**8-6**]
   bl ngtd
   osh bl + 2 species cns
   c diff neg X 1
   Assessment and Plan
   87 yo F w/ MMM presents with:
          Septic shock (now off pressors)
          Hypotension (resolved)
          Leukocytosis
          AGMA (lactate and uremia)-->now NGMA
          Hypernatremia
          ARF on CRI (improved)
          NSTEMI/demand ischemia
          Altered mental status on underlying dementia
   Hypotension in setting of septic shock. Pt also with profound
   dehydration at presentation in setting of ongoing lasix and poor po
   intake/FTT further contributing. She is now off pessors with improving
   renal fx urine outpt and blood ph.  OSH Bl cxs growing CPS (2 different
   sensies).   Still with sm to mod diarrhea with neg c diff X 2.  Source
   still unclear
? Pna, urine, SBE.  C diff neg to date.
   Agree with plan to continue empiric cefepime day 3, continuing vanco
   day 3 for cns bacteremia. (follow vanco levels) Will continue flagyl
   pending 1 additional neg c diff given dirrrhea, though seems less
   liekly. F/u TTE read as concern for SBE as potential source.Her lactate
   has normalized, we continue to follow abg for blood ph.  Now off
   pressors with MAPS holding > 60.   She now has a NGMA--from diarrhea
   and mainly NS resus but is nearly fully compensating from resp
   standpoint. Will use LR for IVFs as needed. Will check TTE to assess
   for SBE and send surveillance cx given CNS bactermeia. We have
   corrected her free water def and na now wnl.  ARF has improved
will
   adjust med dosing accordingly. Urine outpt  responding to IVFs. Demand
   ichemia in setting of sepsis on admit, trop are now trending down.
   Continue asa. CPK
s  elevated but trending down. AAA appears larger
   than prior, though without evidence of dissection or bleed by ct.
   Follow pulses and serial hcts.  Clarify baseline MS, though at this
   time appears to be multiple potential causes for decline including
   sepsis, hypotension and hypernatremia on top of underlying dementia.
   Follow up official cxr read, as appears more wet, but given recent
   pressors will hold on diuresis.  Reassess for ability to tolerate NPPV
   if fatigues.
   Given her metabolic process, pt is at  high risk for fatiguing and
   being increasingly unable to compensate adequately for metabolic
   acidosis.  Given her agitation she is not a good candidate for NPPV.
   Pt is DNR, [**Name (NI) **].  Will continue current level of aggressive care and
   keep family updated and continue to address goals of care..   Social
   work consult.
   Remainder as per Housestaff.
   ICU Care
   Nutrition:  NPO given MS, discuss feeding tube or even longterm issue
   of peg with family pending her continued progress
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2111-8-5**] 05:20 AM
 will d/c and ask for picc placement.
   20 Gauge - [**2111-8-5**] 05:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill